US05750793
49.44 Grams (0.154 moles) of 4-(5-bromo-6-methoxy-2-naphthyl)-4-hydroxybut-3-en-2-one, 12.24 g (0.149 moles) of anhydrous sodium acetate, 4 g of a 50% suspension in water of 5% palladium on carbon, equivalent to 0.00094 moles of palladium and 400 ml of isopropanol are put into a hydrogenator. The hydrogenator is washed with nitrogen in order to eliminate the oxygen and then hydrogen is introduced at the pressure of 2.5 atmospheres. For a period of time of 9 hours the temperature of reaction is kept at 50° C., then the hydrogen is let off, the hydrogenator is washed with nitrogen and the reaction mixture is filtered in order to eliminate the catalyst. The solution is concentrated to 130 ml, diluted with 45 ml of water, heated to 60° C. and added with 18.2 g of sodium metabisulfite. The reaction mixture is kept for one hour at 60° C. and then is cooled to 0° C. The so obtained suspension is kept at 0° C. for two hours and then is filtered; the solid is washed with 60 ml of isopropanol cooled to 0° C. and then is suspended in a mixture made by 70 ml of a 10% aqueous solution of sodium hydroxide and 270 ml of toluene. The reaction mixture is stirred for one hour and half at room temperature, then is heated at 60° C. and the layers are separated. The organic phase is washed with 60 ml of water and is concentrated under vacuum at 60° C. until an oil is obtained which solidifies by cooling. The solid is dissolved at 60° C. in 40 ml of isopropanol and the resulting solution is cooled to 0° C. in two hours. The obtained suspension is kept for one hour at this temperature, filtered, washed with 10 ml of cold isopropanol and dried in oven under vacuum until constant weight. 26.3 Grams of nabumetone are obtained with a yield equal to 74.8%.

reactant | 4-(5-bromo-6-methoxy-2-naphthyl)-4-hydroxybut-3-en-2-one | 0.154 moles | BrC1=C2C=CC(=CC2=CC=C1OC)C(=CC(C)=O)O | C15H13BrO3
reactant | sodium acetate | 0.149 moles, 12.24 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | water | O | H2O
catalyst | palladium on carbon | [Pd] | Pd
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
catalyst | palladium | 0.00094 moles | [Pd] | Pd
solvent | isopropanol | 400 ml | C(C)(C)O | C3H8O
product | nabumetone | CC(=O)CCC=1C=CC=2C=C(C=CC2C1)OC | C15H16O2
